US05719157
A solution of methyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-methylquinoline-3-carboxylate (0.4 g) in tetrahydrofuran (10 ml) was added dropwise to a suspension of lithium aluminium hydride (LiAlH4)(0.114 g) in tetrahydrofuran (10 ml) at room temperature. The mixture was stirred at room temperature for 1.5 hours, and water was added. The resulting mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, the solvent was evaporated, and the resulting crystals were collected by filtration and recrystallized from methanol to give 3-hydroxymethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-methylquinoline (0.326 g, 88%). mp. 200°-201° C.

reactant | methyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-methylquinoline-3-carboxylate | 0.4 g | COC=1C=C2C(=C(C(=NC2=CC1OC)C)C(=O)OC)C1=CC(=C(C=C1)OC)OC | C22H23NO6
reactant | lithium aluminium hydride | 0.114 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-hydroxymethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-methylquinoline | 0.326 g, 88% | OCC=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)C | C21H23NO5
